US07714126B2
Preparation of 3-[methyl-(5-nitro-pyridin-2-yl)-amino]-propionitrile
2-Chloro-5-nitropyridine (158 mg, 1 mmol), 3-methylamino-propionitrile (84 mg, 1 mmol), and finely ground potassium carbonate (414 mg, 3 mmol) were heated to 80° C. in 10 mL anhydrous DMF for 3.5 hrs. The mixture was diluted with EtOAc, extracted with H2O and dried over MgSO4. The EtOAc layer was filtered, evaporated to dryness. ES-MS calcd for C9H10N4O2 (m/e) 206.21, obsd 207.1 (M+H).

reactant | 2-Chloro-5-nitropyridine | 1 mmol, 158 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-methylamino-propionitrile | 1 mmol, 84 mg | CNCCC#N | C4H8N2
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[methyl-(5-nitro-pyridin-2-yl)-amino]-propionitrile | CN(CCC#N)C1=NC=C(C=C1)[N+](=O)[O-] | C9H10N4O2
